US05286728
In a manner analogous to that described in Example 23, 1-{4-[N-(2-isopropyloxyethyl)-N-methoxycarbonylcarbonylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 152°-154° is obtained from 3 g of 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine by reaction with oxalic acid monomethyl ester chloride.

reactant | 1-{4-[N-(2-isopropyloxyethyl)-N-methoxycarbonylcarbonylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)(C)OCCN(C(=O)C(=O)OC)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1
reactant | oxalic acid monomethyl ester chloride | [Cl-].COC(C(=O)O)=O
product | 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine | 3 g | C(C)(C)OCCNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C24H32ClN3O2
